.title hoilee_affc
* Test OpAmp ACDC

***************************************
* Step 1: Replace circuit netlist and parameter here.
***************************************
.subckt hoilee_affc_pin_3 gnda vdda vinn vinp vout
xm62 net050 net2 VDDA VDDA sky130_fd_pr__pfet_01v8 l='MOSFET_59_2_L_HSBCM_PMOS' w='MOSFET_59_2_W_HSBCM_PMOS*1' m='MOSFET_59_2_M_HSBCM_PMOS'
xm59 net2 net2 VDDA VDDA sky130_fd_pr__pfet_01v8 l='MOSFET_59_2_L_HSBCM_PMOS' w='MOSFET_59_2_W_HSBCM_PMOS*1' m='MOSFET_59_2_M_HSBCM_PMOS'
xm12 VOUT net050 VDDA VDDA sky130_fd_pr__pfet_01v8 l='MOSFET_12_1_L_gmf2_PMOS' w='MOSFET_12_1_W_gmf2_PMOS*1' m='MOSFET_12_1_M_gmf2_PMOS'
xm7 net049 net013 VDDA VDDA sky130_fd_pr__pfet_01v8 l='MOSFET_0_8_L_BIASCM_PMOS' w='MOSFET_0_8_W_BIASCM_PMOS*1' m='MOSFET_0_8_M_BIASCM_PMOS'
xm11 net043 net050 VDDA VDDA sky130_fd_pr__pfet_01v8 l='MOSFET_11_1_L_gm2_PMOS' w='MOSFET_11_1_W_gm2_PMOS*1' m='MOSFET_11_1_M_gm2_PMOS'
xm6 net050 VOUTN VDDA VDDA sky130_fd_pr__pfet_01v8 l='MOSFET_0_8_L_BIASCM_PMOS' w='MOSFET_0_8_W_BIASCM_PMOS*1' m='MOSFET_0_8_M_BIASCM_PMOS'
xm5 VOUTN VOUTN VDDA VDDA sky130_fd_pr__pfet_01v8 l='MOSFET_0_8_L_BIASCM_PMOS' w='MOSFET_0_8_W_BIASCM_PMOS*1' m='MOSFET_0_8_M_BIASCM_PMOS'
xm10 net063 VINP net31 net31 sky130_fd_pr__pfet_01v8 l='MOSFET_9_2_L_gm1_PMOS' w='MOSFET_9_2_W_gm1_PMOS*1' m='MOSFET_9_2_M_gm1_PMOS'
xm9 DM_2 VINN net31 net31 sky130_fd_pr__pfet_01v8 l='MOSFET_9_2_L_gm1_PMOS' w='MOSFET_9_2_W_gm1_PMOS*1' m='MOSFET_9_2_M_gm1_PMOS'
xm4 net31 net013 VDDA VDDA sky130_fd_pr__pfet_01v8 l='MOSFET_0_8_L_BIASCM_PMOS' w='MOSFET_0_8_W_BIASCM_PMOS*1' m='2*MOSFET_0_8_M_BIASCM_PMOS'
xm3 VB3 net013 VDDA VDDA sky130_fd_pr__pfet_01v8 l='MOSFET_0_8_L_BIASCM_PMOS' w='MOSFET_0_8_W_BIASCM_PMOS*1' m='MOSFET_0_8_M_BIASCM_PMOS'
xm2 DM_1 net013 VDDA VDDA sky130_fd_pr__pfet_01v8 l='MOSFET_0_8_L_BIASCM_PMOS' w='MOSFET_0_8_W_BIASCM_PMOS*1' m='MOSFET_0_8_M_BIASCM_PMOS'
xm1 VB4 net013 VDDA VDDA sky130_fd_pr__pfet_01v8 l='MOSFET_0_8_L_BIASCM_PMOS' w='MOSFET_0_8_W_BIASCM_PMOS*1' m='MOSFET_0_8_M_BIASCM_PMOS'
xm0 net013 net013 VDDA VDDA sky130_fd_pr__pfet_01v8 l='MOSFET_0_8_L_BIASCM_PMOS' w='MOSFET_0_8_W_BIASCM_PMOS*1' m='MOSFET_0_8_M_BIASCM_PMOS'
xm64 net1 VB4 GNDA GNDA sky130_fd_pr__nfet_01v8 l='MOSFET_18_7_L_BIASCM_NMOS' w='MOSFET_18_7_W_BIASCM_NMOS*1' m='MOSFET_18_7_M_BIASCM_NMOS*4'
xm63 net050 VB3 net1 GNDA sky130_fd_pr__nfet_01v8 l='MOSFET_60_2_L_gma_NMOS' w='MOSFET_60_2_W_gma_NMOS*1' m='MOSFET_60_2_M_gma_NMOS'
xm61 net3 VB4 GNDA GNDA sky130_fd_pr__nfet_01v8 l='MOSFET_18_7_L_BIASCM_NMOS' w='MOSFET_18_7_W_BIASCM_NMOS*1' m='MOSFET_18_7_M_BIASCM_NMOS*4'
xm60 net2 VB3 net3 GNDA sky130_fd_pr__nfet_01v8 l='MOSFET_60_2_L_gma_NMOS' w='MOSFET_60_2_W_gma_NMOS*1' m='MOSFET_60_2_M_gma_NMOS'
xm25 VOUT net049 GNDA GNDA sky130_fd_pr__nfet_01v8 l='MOSFET_25_1_L_gm3_NMOS' w='MOSFET_25_1_W_gm3_NMOS*1' m='MOSFET_25_1_M_gm3_NMOS'
xm23 net049 net043 GNDA GNDA sky130_fd_pr__nfet_01v8 l='MOSFET_22_2_L_LOAD2_NMOS' w='MOSFET_22_2_W_LOAD2_NMOS*1' m='MOSFET_22_2_M_LOAD2_NMOS'
xm22 net043 net043 GNDA GNDA sky130_fd_pr__nfet_01v8 l='MOSFET_22_2_L_LOAD2_NMOS' w='MOSFET_22_2_W_LOAD2_NMOS*1' m='MOSFET_22_2_M_LOAD2_NMOS'
xm20 DM_2 VB4 GNDA GNDA sky130_fd_pr__nfet_01v8 l='MOSFET_18_7_L_BIASCM_NMOS' w='MOSFET_18_7_W_BIASCM_NMOS*1' m='MOSFET_18_7_M_BIASCM_NMOS*8'
xm16 VOUTN VB3 DM_2 GNDA sky130_fd_pr__nfet_01v8 l='MOSFET_17_7_L_BIASCM_NMOS' w='MOSFET_17_7_W_BIASCM_NMOS*1' m='MOSFET_17_7_M_BIASCM_NMOS*4'
xm21 net063 VB4 GNDA GNDA sky130_fd_pr__nfet_01v8 l='MOSFET_18_7_L_BIASCM_NMOS' w='MOSFET_18_7_W_BIASCM_NMOS*1' m='MOSFET_18_7_M_BIASCM_NMOS*8'
xm17 net050 VB3 net063 GNDA sky130_fd_pr__nfet_01v8 l='MOSFET_17_7_L_BIASCM_NMOS' w='MOSFET_17_7_W_BIASCM_NMOS*1' m='MOSFET_17_7_M_BIASCM_NMOS*4'
xm18 net54 VB4 GNDA GNDA sky130_fd_pr__nfet_01v8 l='MOSFET_18_7_L_BIASCM_NMOS' w='MOSFET_18_7_W_BIASCM_NMOS*1' m='MOSFET_18_7_M_BIASCM_NMOS*4'
xm15 VB3 VB3 GNDA GNDA sky130_fd_pr__nfet_01v8 l='MOSFET_18_7_L_BIASCM_NMOS' w='MOSFET_18_7_W_BIASCM_NMOS*1' m='MOSFET_18_7_M_BIASCM_NMOS'
xm13 VB4 VB3 net54 GNDA sky130_fd_pr__nfet_01v8 l='MOSFET_18_7_L_BIASCM_NMOS' w='MOSFET_18_7_W_BIASCM_NMOS*1' m='MOSFET_18_7_M_BIASCM_NMOS*4'
xm19 net56 VB4 GNDA GNDA sky130_fd_pr__nfet_01v8 l='MOSFET_18_7_L_BIASCM_NMOS' w='MOSFET_18_7_W_BIASCM_NMOS*1' m='MOSFET_18_7_M_BIASCM_NMOS*4'
xm14 DM_1 VB3 net56 GNDA sky130_fd_pr__nfet_01v8 l='MOSFET_18_7_L_BIASCM_NMOS' w='MOSFET_18_7_W_BIASCM_NMOS*1' m='MOSFET_18_7_M_BIASCM_NMOS*4'
I0 net013 GNDA 'CURRENT_0_BIAS'
C1 VOUT net1 'CAPACITOR_1'
C0 net049 VOUT 'CAPACITOR_0'
.ends HoiLee_AFFC_Pin_3

.PARAM
+ MOSFET_0_8_L_BIASCM_PMOS=1 MOSFET_0_8_M_BIASCM_PMOS=4 
+ MOSFET_0_8_W_BIASCM_PMOS=1 MOSFET_11_1_L_gm2_PMOS=1 
+ MOSFET_11_1_M_gm2_PMOS=4 MOSFET_11_1_W_gm2_PMOS=1 
+ MOSFET_12_1_L_gmf2_PMOS=1 MOSFET_12_1_M_gmf2_PMOS=4 
+ MOSFET_12_1_W_gmf2_PMOS=1 MOSFET_17_7_L_BIASCM_NMOS=1 
+ MOSFET_17_7_M_BIASCM_NMOS=4 MOSFET_17_7_W_BIASCM_NMOS=1 
+ MOSFET_18_7_L_BIASCM_NMOS=1 MOSFET_18_7_M_BIASCM_NMOS=4 
+ MOSFET_18_7_W_BIASCM_NMOS=1 MOSFET_22_2_L_LOAD2_NMOS=1 
+ MOSFET_22_2_M_LOAD2_NMOS=4 MOSFET_22_2_W_LOAD2_NMOS=1 
+ MOSFET_25_1_L_gm3_NMOS=1 MOSFET_25_1_M_gm3_NMOS=4 
+ MOSFET_25_1_W_gm3_NMOS=1 MOSFET_59_2_L_HSBCM_PMOS=1 
+ MOSFET_59_2_M_HSBCM_PMOS=4 MOSFET_59_2_W_HSBCM_PMOS=1 
+ MOSFET_60_2_L_gma_NMOS=1 MOSFET_60_2_M_gma_NMOS=4 
+ MOSFET_60_2_W_gma_NMOS=1 MOSFET_9_2_L_gm1_PMOS=1 
+ MOSFET_9_2_M_gm1_PMOS=4 MOSFET_9_2_W_gm1_PMOS=1 CAPACITOR_0=18p 
+ CAPACITOR_1=3p CURRENT_0_BIAS=20u CLOAD=100p VCM=300m 


.param mc_mm_switch=0
.param mc_pr_switch=0

.lib "../../sky130_pdk/libs.tech/ngspice/sky130.lib.spice" tt
*.include ../mosfet_model/sky130_pdk/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
*.include ../mosfet_model/sky130_pdk/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
*.include ../mosfet_model/sky130_pdk/libs.tech/ngspice/corners/tt/specialized_cells.spice


.PARAM supply_voltage = 1.8
.PARAM VCM_ratio = 0.25
.PARAM PARAM_CLOAD =500.00p 

V1 vdd 0 'supply_voltage'
V2 vss 0 0 

Vindc opin 0 'supply_voltage*VCM_ratio'
Vin signal_in 0 dc 'supply_voltage*VCM_ratio' ac 1 sin('supply_voltage*VCM_ratio' 100m 500)

Lfb opout opout_dc 1T
Cin opout_dc signal_in 1T

* XOP gnda vdda vinn vinp vout
*        |  |     |     |   |
*        |  |     |     |   Output
*        |  |     |     Non-inverting Input
*        |  |      Inverting Input
*        |  Positive Supply
*        Negative Supply 

***************************************
* Step 3: Replace circuit name below.
* e.g. Leung_NMCNR_Pin_3 -> Leung_NMCF_Pin_3
*************************************** 
*    ADM TB   
Xop1 vss vdd opout_dc opin opout  HoiLee_AFFC_Pin_3
Cload1 opout 0 'PARAM_CLOAD'

*   ACM TB    
xop2 vss vdd cm2 cm1 cm3  HoiLee_AFFC_Pin_3
Cload2 cm3 0 'PARAM_CLOAD'
vcmdc cm0 0 'supply_voltage*VCM_ratio'
vcmac1 cm1 cm0 0 ac=1
vcmac2 cm2 cm3 0 ac=1
.meas ac cmrrdc find vdb(cm3) at = 0.1 
.meas ac dcgain find vdb(opout) at = 0.1
.meas ac gain_bandwidth_product when vdb(opout)=0
.meas ac phase_in_rad find vp(opout) when vdb(opout)=0
.meas ac phase_in_deg param='phase_in_rad*180/3.1416'

* PSRR   TB   
VGNDApsrr gndpsrr 0 0 AC=1
VVDDApsrr vddpsrr 0 'supply_voltage'  AC=1
xop3 vss vddpsrr ppsr1 opin ppsr1  HoiLee_AFFC_Pin_3
Cload3 ppsr1 0 'PARAM_CLOAD'
xop4 gndpsrr vdd npsr1 opin npsr1  HoiLee_AFFC_Pin_3
Cload4 npsr1 0 'PARAM_CLOAD'
.measure ac DCPSRp find vdb(ppsr1) at = 0.1
.measure ac DCPSRn find vdb(npsr1) at = 0.1

* DC ALL  TB  
VVDDdc VDDdc 0 'supply_voltage' 
xop5 vss vdddc vout6 opin vout6  HoiLee_AFFC_Pin_3
Cload5 vout6 0 'PARAM_CLOAD'
* TC meas   
.measure dc maxval MAX V(vout6) from=-40 to=125
.measure dc minval MIN V(vout6) from=-40 to=125
.measure dc avgval AVG V(vout6) from=-40 to=125
.measure dc ppavl  PP V(vout6) from=-40 to=125
.measure dc TC param='ppavl/avgval/165'
* Power meas   
.meas dc Ivdd25 FIND I(VVDDDC) AT=25
.meas dc Power param='-1*Ivdd25*supply_voltage'
*   Vos.meas   
.meas dc vout25 FIND V(vout6) AT=25
.meas dc vos25 param = 'vout25-supply_voltage*VCM_ratio'

.control

DC temp -40 125 0.1
plot v(vout6)

ac dec 10 0.1 1G
plot vdb(opout) vdb(cm3) vdb(ppsr1) vdb(npsr1)
plot vp(opout)

.endc

.end