.title ldo_1
* Test ldo_1 ACDC

*.OPTIONS RELTOL=.0001
***************************************
* Step 1: Replace circuit netlist here.
*************************************** 
.subckt ldo_1 Vss Vdd vinn vout vfb vinp Ib
XM8 vout net3 Vdd Vdd sky130_fd_pr__pfet_01v8 L=L_M8 W=W_M8 m=M_M8
XM1 net1 net1 Vdd Vdd sky130_fd_pr__pfet_01v8 L=L_M1 W=W_M1 m=M_M1
XM0 net8 net1 Vdd Vdd sky130_fd_pr__pfet_01v8 L=L_M0 W=W_M0 m=M_M0
XM6 net3 net8 Vdd Vdd sky130_fd_pr__pfet_01v8 L=L_M6 W=W_M6 m=M_M6
XM7 net3 Ib Vss Vss sky130_fd_pr__nfet_01v8 L=L_M7 W=W_M7 m=M_M7
XM5 Ib Ib Vss Vss sky130_fd_pr__nfet_01v8 L=L_M5 W=W_M5 m=M_M5
XM4 net2 Ib Vss Vss sky130_fd_pr__nfet_01v8 L=L_M4 W=W_M4 m=M_M4
XM3 net8 vinp net2 Vss sky130_fd_pr__nfet_01v8 L=L_M3 W=W_M3 m=M_M3
XM2 net1 vinn net2 Vss sky130_fd_pr__nfet_01v8 L=L_M2 W=W_M2 m=M_M2
r0 vout vfb 300e3
r1 vfb Vss 100e3
.ends ldo_1

.param mc_mm_switch=0
.param mc_pr_switch=0
.lib "../../sky130_pdk/libs.tech/ngspice/sky130.lib.spice" tt
* (removed r+c include)
* (removed r+c include)
* (removed specialized_cells include)

***************************************
* Step 2: Replace circuit param.  here.
*************************************** 
.param W_M0=3 L_M0=1 M_M0=1
.param W_M1=W_M0 L_M1=L_M0 M_M1=M_M0
.param W_M2=20 L_M2=4 M_M2=1
.param W_M3=W_M2 L_M3=L_M2 M_M3=M_M2
.param W_M4=1 L_M4=0.5 M_M4=1
.param W_M5=W_M4 L_M5=L_M4 M_M5=M_M4
.param W_M6=25 L_M6=1 M_M6=1
.param W_M7=3 L_M7=0.5 M_M7=1
.param W_M8=100 L_M8=1 M_M8=120
.param current_0_bias=5e-06
.param M_CL=200
.PARAM supply_voltage = 1.8
.PARAM Vref = 0.4
.PARAM PARAM_ILOAD =100m 

V1 vdd 0 'supply_voltage'
V2 vss 0 0 

Vindc vref_in 0 'Vref'
Vin signal_in 0 dc 'Vref' ac 1 sin('Vref' 100m 500)

* Circuit List:
* ldo_1

* XLDO gnda vdda vinn vout vfb vinp Ib
*        |  |     |     |   |    |   |
*        |  |     |     |   |    |   bias current
*        |  |     |     |   |    Non-inverting input 
*        |  |     |     |   Feedback voltage 
*        |  |     |     |   
*        |  |     |     Output
*        |  |     Inverting Input
*        |  Positive Supply
*         Negative Supply 

***************************************
* Step 3: Replace circuit name below.
* e.g. ldo_1 -> DFCFC_LDO
*************************************** 
*    ADM TB   
x1 vss vdd vref_in vout1 vfb1 vinp1 Ib ldo_1
Ib vdd Ib DC='current_0_bias'
Lfb vinp1 vfb1 1T
Cfb vinp1 signal_in 1T
XCL vout1 0 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=M_CL m=M_CL
Iload1 vout1 0 'PARAM_ILOAD'

* PSRR   TB   
VVDDApsrr vddpsrr 0 'supply_voltage' AC=1
Ib2 vdd Ib2 DC='current_0_bias'
XCL2 ppsr1 0 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=M_CL m=M_CL
x2 vss vddpsrr vref_in ppsr1 vfb2 vfb2 Ib2 ldo_1
Iload2 ppsr1 0 'PARAM_ILOAD'

* DC ALL  TB  
VVDDdc VDDdc 0 'supply_voltage' 
Ib3 vdd Ib3 DC='current_0_bias'
XCL3 vout6 0 sky130_fd_pr__cap_mim_m3_1 W=30 L=30 MF=M_CL m=M_CL
x3 vss vdddc vref_in vout6 vfb3 vfb3 Ib3 ldo_1
Iload3 vout6 0 'PARAM_ILOAD'

.control
* save all voltage and current
save all
.options savecurrents 
set filetype=ascii
set units=degrees

* DC sweep at maxload
alter Iload3 dc=100m
dc VVDDdc 1 3 0.01
plot  v(vout6)
wrdata ldo_1_Vdrop_maxload v(vout6)

* DC sweep at minload
alter Iload3 dc=1m
dc VVDDdc 1 3 0.01
plot  v(vout6)
wrdata ldo_1_Vdrop_minload v(vout6)

* LNR at maxload
alter Iload3 dc=100m
dc VVDDdc 1.62 1.98 0.01
meas dc maxval1 MAX V(vout6) from=1.62 to=1.98
meas dc minval1 MIN V(vout6) from=1.62 to=1.98
meas dc avgval1 AVG V(vout6) from=1.62 to=1.98
meas dc ppavl1  PP V(vout6) from=1.62 to=1.98
let LNR1 = ppavl1/avgval1/0.36
print LNR1
plot v(vout6)
wrdata ldo_1_ACDC_LNR_maxload LNR1

* LNR at minload
alter Iload3 dc=1m
dc VVDDdc 1.62 1.98 0.01
meas dc maxval2 MAX V(vout6) from=1.62 to=1.98
meas dc minval2 MIN V(vout6) from=1.62 to=1.98
meas dc avgval2 AVG V(vout6) from=1.62 to=1.98
meas dc ppavl2  PP V(vout6) from=1.62 to=1.98
let LNR2 = ppavl2/avgval2/0.36
print LNR2
plot v(vout6)
wrdata ldo_1_ACDC_LNR_minload LNR2

dc Iload3 1m 100m 0.1m
* LR meas   
meas dc maxval MAX V(vout6) from=1m to=100m
meas dc minval MIN V(vout6) from=1m to=100m
meas dc avgval AVG V(vout6) from=1m to=100m
meas dc ppavl  PP V(vout6) from=1m to=100m
let LR = ppavl/avgval/99m
print LR

* Power meas at maxload
meas dc Ivdd1 FIND I(VVDDDC) AT=100m
let Power1 = -1*Ivdd1*1.8
print Power1

* Power meas at minload
meas dc Ivdd2 FIND I(VVDDDC) AT=1m
let Power2 = -1*Ivdd2*1.8
print Power2

*   Vos.meas at maxload
meas dc vout_x FIND V(vout6) AT=100m
let vos1 = vout_x-4*0.4
print vos1

*   Vos.meas at minload
meas dc vout_y FIND V(vout6) AT=1m
let vos2 = vout_y-4*0.4
print vos2
plot v(vout6)
wrdata ldo_1_ACDC_LR_Power_vos LR Power1 Power2 vos1 vos2 

* Loop test at maxload
alter Iload1 dc=100m
alter Iload2 dc=100m
ac dec 10 0.1 1G
meas ac DCPSRp1 find vdb(ppsr1) at = 0.1
meas ac dcgain1 find vdb(vout1) at = 0.1
meas ac gain_bandwidth_product1 when vdb(vout1)=0
meas ac phase_margin1 find vp(vout1) when vdb(vout1)=0
plot vdb(vout1) vdb(ppsr1) vp(vout1)
wrdata ldo_1_ACDC_PSRR_dcgain_maxload DCPSRp1 dcgain1
wrdata ldo_1_ACDC_GBW_PM_maxload gain_bandwidth_product1 phase_margin1

* Loop test at minload
alter Iload1 dc=1m
alter Iload2 dc=1m
ac dec 10 0.1 1G
meas ac DCPSRp2 find vdb(ppsr1) at = 0.1
meas ac dcgain2 find vdb(vout1) at = 0.1
meas ac gain_bandwidth_product2 when vdb(vout1)=0
meas ac phase_margin2 find vp(vout1) when vdb(vout1)=0
plot vdb(vout1) vdb(ppsr1) vp(vout1)
wrdata ldo_1_ACDC_PSRR_dcgain_minload DCPSRp2 dcgain2
wrdata ldo_1_ACDC_GBW_PM_minload gain_bandwidth_product2 phase_margin2

* OP
op

.endc

.end